US08975415B2
To a mixture of 6-bromo-2,2-dimethyl-2,3-dihydro-4H-chromen-4-one (1.00 g, 3.92 mmol) and dioxane (10 mL) were added formaldehyde (37 wt. % in water, 2.95 mL, 39.2 mmol) and Na2CO3 (831 mg, 7.84 mmol) at room temperature. After stirring overnight at the same temperature, the reaction mixture was filtered. The filtrate was diluted with CHCl3, washed with 1M aqueous HCl and water, dried over MgSO4 and filtered. The filtrate was concentrated at reduced pressure, and the residue was purified with column chromatography on silica gel (hexane-EtOAc, a linear gradient of EtOAc from 0 to 50%) to afford 6-bromo-3,3-bis(hydroxymethyl)-2,2-dimethyl-2,3-dihydro-4H-chromen-4-one (1.07 g).

reactant | 6-bromo-2,2-dimethyl-2,3-dihydro-4H-chromen-4-one | 3.92 mmol, 1.00 g | BrC=1C=C2C(CC(OC2=CC1)(C)C)=O | C11H11BrO2
reactant | formaldehyde | 39.2 mmol, 2.95 mL | C=O | CH2O
reactant | Na2CO3 | 7.84 mmol, 831 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 6-bromo-3,3-bis(hydroxymethyl)-2,2-dimethyl-2,3-dihydro-4H-chromen-4-one | 1.07 g | BrC=1C=C2C(C(C(OC2=CC1)(C)C)(CO)CO)=O | C13H15BrO4
